US09233956B2
N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
In a 250 mL flask was placed N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (4 g, 9.05 mmol) and DMF (60 mL) was added. NBS (1.62 g, 9.10 mmol) was added and, after stirring at rt for 40 min, 2-methylpropanethioamide (1.4 g, 13.6 mmol), prepared by a procedure analogous to Intermediate 1, was added. After 4 h at rt, the reaction mixture was poured into 800 mL of EtOAc and washed 4 times with 250 mL of H2O, washed once with 200 mL of brine, and dried over NaSO4. Silica gel was added and the volatiles were removed under reduced pressure. Column chromatography with 10% to 60% EtOAc:Hexane gave 2.15 g (45%) of the title compound. 1H-NMR (400 MHz, DMSO-d6) δ 11.43 (s, 1H), 9.06 (d, J=5.3 Hz, 1H), 8.12-8.30 (m, 1H), 7.93-8.06 (m, 2H), 7.84 (t, J=7.9 Hz, 1H), 7.75 (t, J=9.2 Hz, 2H), 7.37 (d, J=5.3 Hz, 1H), 3.77-3.93 (m, 1H), and 1.89 (d, J=6.8 Hz, 6H). MS (ESI): 524 [M]+.

reactant | N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 9.05 mmol, 4 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C18H11ClF3N3O3S
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
reactant | NBS | 9.10 mmol, 1.62 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-methylpropanethioamide | 13.6 mmol, 1.4 g | CC(C(N)=S)C | C4H9NS
solvent | EtOAc | 800 mL | CCOC(=O)C | C4H8O2
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 2.15 g, 45% | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C22H16ClF3N4O2S2
